US07262185B2
2-(4-aminophenylthio)acetohydrazide (5 g) was suspended in ethanol (50 ml) and to the suspension was added 40% piruvaldehyde solution (6.8 ml), at room temperature, and the mixture was stirred for 20 minutes. 13% ammonia-ethanol solution (60 ml) was added to the mixture, and the mixture was heated for 4.5 hours at 150° C. The solvent was distilled off, and the residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/hexane) to give 4-[(5-methyl-1,2,4-triazin-3-yl)methylthio]aniline (1.2 g) as colorless crystals.

reactant | 2-(4-aminophenylthio)acetohydrazide | 5 g | NC1=CC=C(C=C1)SCC(=O)NN | C8H11N3OS
reactant | ammonia ethanol | 60 ml | N.C(C)O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 4-[(5-methyl-1,2,4-triazin-3-yl)methylthio]aniline | 1.2 g | CC=1N=C(N=NC1)CSC1=CC=C(N)C=C1 | C11H12N4S
